US08193164B2
Step AC1: {(1S,4R)-4-[2-Chloro-6-(1-ethyl-propylamino)-purin-9-yl]-cyclopent-2-enyl}-propionyl-carbamic acid tert-butyl ester
[(1S,4R)-4-(2,6-Dichloro-purin-9-yl)-cyclopent-2-enyl]-propionyl-carbamic acid tert-butyl ester (700 mg, 1.64 mmol) is dissolved in THF (15 mL) under an atmosphere of argon. 3-Pentylamine (315 mg, 3.61 mmol) is added and the reaction mixture is stirred at 50° C. The reaction is shown to be complete by LCMS after 18 hours. The reaction mixture is partitioned between DCM (50 mL) and 0.1 M HCl (50 mL). The organic layer is washed with water (20 mL) and brine (20 mL), dried over MgSO4, filtered and the solvent is removed in vacuo to give the title compound.

reactant | [(1S,4R)-4-(2,6-Dichloro-purin-9-yl)-cyclopent-2-enyl]-propionyl-carbamic acid tert-butyl ester | 1.64 mmol, 700 mg | C(C)(C)(C)OC(N(C(CC)=O)[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)=O | C18H21Cl2N5O3
reactant | 3-Pentylamine | 3.61 mmol, 315 mg | CCC(CC)N | C5H13N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {(1S,4R)-4-[2-Chloro-6-(1-ethyl-propylamino)-purin-9-yl]-cyclopent-2-enyl}-propionyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C(CC)=O)[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)NC(CC)CC)Cl)=O | C23H33ClN6O3
